US04404230
N-tert. Butyl-3,5-dimethoxy-benzene sulfonamide
A solution of 7.3 gm (0.1 mol) of tert. butylamine in 20 ml of dioxane was added dropwise to a solution of 10.0 gm (42 mmols) of 3,5-dimethoxy-benzene sulfonic acid chloride in 100 ml dioxane at 40° C. over a period of 15 minutes. After the reaction temperature began to drop the reaction mixture was heated at 45° C. for 1.5 hours and at 60° C. for 2 hours. After cooling and filtering, the filtrate was evaporated in vacuo. The residue was recrystallized from cyclohexane.

reactant | tert. butylamine | 0.1 mol, 7.3 gm | C(C)(C)(C)N | C4H11N
reactant | 3,5-dimethoxy-benzene sulfonic acid chloride | 42 mmols, 10.0 gm | COC=1C=C(C=C(C1)OC)S(=O)(=O)Cl | C8H9ClO4S
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | N-tert. Butyl-3,5-dimethoxy-benzene sulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC(=C1)OC)OC | C12H19NO4S
